US05977097
To a solution of 4-nitrobenzyl (1R,5R,6S)-2-(diphenylphosphoryloxy)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (225 mg) in anhydrous dimethylformamide (3 ml), a solution of (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-[(3R)-3-(pyrrolidin-1-ylmethyl)pyrrolidin-1-ylcarbonyl]pyrrolidine (198 ml) in anhydrous dimethylformamide (1 ml) and diisopropylethylamine (97 μl) were added in an ice bath. The resulting mixture was stirred for 20 hours at the same temperature. The reaction mixture was concentrated by evaporation under reduced pressure. The residue was dissolved in ethyl acetate. The resulting mixture was washed successively with water and saturated saline solution and dried over anhydrous sodium sulfate. The solvent was then distilled off. The residue was subjected to chromatography through a silica gel column and from the fraction eluted with ethyl acetate/methanol=4/1, 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-[(3R)-3-(pyrrolidin-1-ylmethyl)pyrrolidin-1-ylcarbonyl]pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate (235 mg) was obtained as a powder.

reactant | 4-nitrobenzyl (1R,5R,6S)-2-(diphenylphosphoryloxy)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 225 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)OC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O8P
reactant | (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-[(3R)-3-(pyrrolidin-1-ylmethyl)pyrrolidin-1-ylcarbonyl]pyrrolidine | 198 ml | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1C[C@H](CC1)CN1CCCC1 | C22H30N4O5S
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | diisopropylethylamine | 97 μl | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-[(3R)-3-(pyrrolidin-1-ylmethyl)pyrrolidin-1-ylcarbonyl]pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate | 235 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2C[C@H](CC2)CN2CCCC2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C39H46N6O11S
